US07429609B2
3-(3-Fluorophenyl)-1H-pyrazolo[4,3-c]pyridine
To a solution of 12 mg of 3-(3-fluorophenyl)-1-trityl-1H-pyrazolo[4,3-c]pyridine in 2 mL of dichloromethane was added 1 mL of trifluoroacetic acid at room temperature and stirred at this temperature for 10 minutes. The reaction solution was poured into aqueous sodium hydrogen carbonate, extracted with ethyl acetate, and the organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated. The crude product was purified and separated by silica gel column chromatography (ethyl acetate:n-hexane=1:10-1:3), to afford 4 mg of the title compound as colorless crystals.

reactant | 3-(3-fluorophenyl)-1-trityl-1H-pyrazolo[4,3-c]pyridine | 12 mg | FC=1C=C(C=CC1)C1=NN(C2=C1C=NC=C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C31H22FN3
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 3-(3-Fluorophenyl)-1H-pyrazolo[4,3-c]pyridine | 4 mg | FC=1C=C(C=CC1)C1=NNC2=C1C=NC=C2 | C12H8FN3
